US07977477B2
To a mixture of 4-(3,4-dinitro-benzyl)-morpholine (2.5 g, 9.3 mmol), Fe powder (5.2 g, 93 mmol) and FeSO4.7H2O (1.3 g, 4.6 mmol) was added 1,4-dioxane:water (5:1, 60 ml). The mixture was refluxed for 3 h, filtered through celite, washing with MeOH, and reduced in vacuo azeotroping with toluene. EtOAc (100 ml) was added and insoluble material removed via filtration. The filtrate was reduced in vacuo to give 4-morpholin-4-ylmethyl-benzene-1,2-diamine as a dark brown solid (1.4 g, 73%). (LC/MS: Rt 0.40, no ionization).

reactant | 4-(3,4-dinitro-benzyl)-morpholine | 9.3 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1[N+](=O)[O-] | C11H13N3O5
catalyst | Fe | 93 mmol, 5.2 g | [Fe] | Fe
solvent | 1,4-dioxane water | 60 ml | O1CCOCC1.O
product | 4-morpholin-4-ylmethyl-benzene-1,2-diamine | 1.4 g, 73% | N1(CCOCC1)CC=1C=C(C(=CC1)N)N | C11H17N3O
